US05578622
Synthesis of 3-(3-iodo-2-propynyloxymethyloxy)-4-cyano-5-ethylthioisothiazole (compound No. 86)
1.86 Grams of 3-hydroxy-4-cyano-5-ethylthioisothiazole was dissolved in 30 ml of DMF, and 0.7 g of potassium carbonate was added thereto. Thereafter, 1.3 g of 2-propynyloxymethyl chloride was added at room temperature with stirring, and the reaction solution was stirred at 50° C. for 2 hours. The reaction solution was ice-cooled to 5° to 10° C., a solution of 5.0 g of iodine and 3.2 g of potassium iodide in 5 ml of water and 20 ml of DMF was added thereto, and then 6.6 g of 10% KOH was added dropwise. After addition, the reaction solution was stirred at room temperature for 1 hour. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure to obtain crude crystals. Recrystallization of the crude crystals from ether/hexane gave 2.6 g of crystals having a melting point of 57° to 58° C.

reactant | 3-hydroxy-4-cyano-5-ethylthioisothiazole | OC1=NSC(=C1C#N)SCC | C6H6N2OS2
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propynyloxymethyl chloride | 1.3 g | C(C#C)OCCl | C4H5ClO
reactant | iodine | 5.0 g | II | I2
reactant | potassium iodide | 3.2 g | [I-].[K+]
reactant | KOH | 6.6 g | [OH-].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(3-iodo-2-propynyloxymethyloxy)-4-cyano-5-ethylthioisothiazole | 2.6 g | IC#CCOCOC1=NSC(=C1C#N)SCC | C10H9IN2O2S2
